US08110573B2
4-tert-Butoxycarbonylamino-1H-pyrazole-3-carboxylic acid (0.750 Kg, 3.30 mol, 1.0 wt), 4-morpholin-4-yl-methyl-benzene-1,2-diamine (0.752 Kg, 3.63 mol, 1.0 wt) and N,N′-dimethylformamide (11.25 L, 15.0 vol) were charged under nitrogen to a flange flask equipped with a mechanical stirrer and thermometer. 1-Hydroxybenzotriazole (HOBT, 0.540 Kg, 3.96 mol, 0.72 wt) was added at 15 to 25° C. N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide (EDC, 0.759 Kg, 3.96 mol, 1.01 wt) was added at 15 to 25° C. and the mixture was stirred at this temperature for 16 to 24 hours. Reaction completion was determined by 1H NMR analysis. The reaction mixture was concentrated under vacuum at 35 to 45° C. The residue was partitioned between ethyl acetate (7.50 L, 10.0 vol) and sat. aq. sodium hydrogen carbonate solution (8.03 L, 10.7 vol) and the layers were separated. The organic phase was washed with brine (3.75 L, 5.0 vol), dried over magnesium sulfate (1.00 Kg, 1.33 wt) and filtered. The filter-cake was washed with ethyl acetate (1.50 L, 2.0 vol). The combined filtrate and wash were concentrated under vacuum at 35 to 45° C. to give [3-(2-amino-4-morpholin-4-ylmethyl-phenylcarbamoyl)-1H-pyrazol-4-yl]-carbamic acid tert-butyl ester (1.217 Kg, 88.6%) as a dark brown solid.

reactant | 4-tert-Butoxycarbonylamino-1H-pyrazole-3-carboxylic acid | 3.30 mol, 0.750 Kg | C(C)(C)(C)OC(=O)NC=1C(=NNC1)C(=O)O | C9H13N3O4
reactant | 4-morpholin-4-yl-methyl-benzene-1,2-diamine | 3.63 mol, 0.752 Kg | N1(CCOCC1)C=1C(=C(C(=CC1)N)N)C | C11H17N3O
reactant | 1-Hydroxybenzotriazole | 3.96 mol, 0.540 Kg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide | 3.96 mol, 0.759 Kg | CN(CCCN=C=NCC)C | C8H17N3
solvent | N,N′-dimethylformamide | 11.25 L | CN(C)C=O | C3H7NO
product | [3-(2-amino-4-morpholin-4-ylmethyl-phenylcarbamoyl)-1H-pyrazol-4-yl]-carbamic acid tert-butyl ester | 1.217 Kg, 88.6% | C(C)(C)(C)OC(NC=1C(=NNC1)C(NC1=C(C=C(C=C1)CN1CCOCC1)N)=O)=O | C20H28N6O4
